US08455514B2
To 6-aminoisoquinolin-1-ol in DMF was added methoxytrimethylsilane and (R)-tert-butyl 2-fluoro-2 oxo-1-(thiophen-3-yl)ethylcarbamate and the solution was stirred at room temperature for 6 h. The mixture was poured into EtOAc, washed with NH4Cl (sat)/HCl (1N) followed by NaHCO3 (0.05%), dried (Na2SO4), filtered and evaporated. Column chromatography (SiO2, 5% MeOH, CH2Cl2) gave pure (R)-tert-butyl 2-(1-hydroxyisoquinolin-6-ylamino)-2-oxo-1-(thiophen-3-yl)ethylcarbamate) (91.8% ee by Chiracel OD-RH).

reactant | 6-aminoisoquinolin-1-ol | NC=1C=C2C=CN=C(C2=CC1)O | C9H8N2O
reactant | methoxytrimethylsilane | CO[Si](C)(C)C | C4H12OSi
reactant | (R)-tert-butyl 2-fluoro-2 oxo-1-(thiophen-3-yl)ethylcarbamate | FC([C@@H](C1=CSC=C1)NC(OC(C)(C)C)=O)=O | C11H14FNO3S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | (R)-tert-butyl 2-(1-hydroxyisoquinolin-6-ylamino)-2-oxo-1-(thiophen-3-yl)ethylcarbamate | OC1=NC=CC2=CC(=CC=C12)NC([C@@H](C1=CSC=C1)NC(OC(C)(C)C)=O)=O | C20H21N3O4S
